US05731463
reacting 1-{4-[2-(Cyclopropylmethoxy)ethyl]phenoxy}-2,3-epoxypropane with isopropylamine to produce Betaxolol.

reactant | 1-{4-[2-(Cyclopropylmethoxy)ethyl]phenoxy}-2,3-epoxypropane | C1(CC1)COCCC1=CC=C(OCC2CO2)C=C1 | C15H20O3
reactant | isopropylamine | C(C)(C)N | C3H9N
product | Betaxolol | CC(C)NCC(COC=1C=CC(=CC1)CCOCC2CC2)O | C18H29NO3
